US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(3,5-dimethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrol[2,3-D]pyrimidin-6-one (Formula 52)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (70 mg, 0.25 mmol), 5-(3,5-dimethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrole-2-carbaldehyde (74.8 mg, 0.3 mmol) and piperidine (3 drops) in ethanol (2 mL) was stirred at room temperature for overnight. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 93.1 mg (73%) of the title compound as a yellow solid. 1H NMR (360 MHz, DMSO-d6) δ 13.39 (br s, 1H, NH), 11.75 (br s, 1H, NH), 9.23 (br s, 1H), 8.32 (s, 1H), 7.73 (dd, J=2.6 & 6.7 Hz, 1H), 7.41 (m, 1H), 7.33-7.38 (m, 2H), 6.57 (d, J=2 Hz, 1H), 4.22 (m, 2H, CH2), 2.68 (m, 2H, CH2), 2.52 (m, 2H, 2×CH), 2.22 (s, 3H, CH3), 0.99 (d, J=6 Hz, 6H, 2×CH3), 0.98 (s, 3H, CH3). MS 510 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.25 mmol, 70 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 5-(3,5-dimethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrole-2-carbaldehyde | 0.3 mmol, 74.8 mg | CC1CN(CC(N1)C)C(=O)C1=CC(=C(N1)C=O)C | C13H19N3O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[5-(3,5-dimethyl-piperazine-1-carbonyl)-3-methyl-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrol[2,3-D]pyrimidin-6-one | 93.1 mg, 73% | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=CC2C)C(=O)N2CC(NC(C2)C)C)=O | C25H25ClFN7O2
